US04698352
In a mixed solvent of 2.5 ml of anisole and 2.5 ml of trifluoroacetic acid was dissolved 0.25 g of methyl 6-(4-diphenylmethyloxycarbonylphenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate, and they were reacted at room temperature for 1.5 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was dissolved in a mixed solvent of 2.5 ml of ethanol and 2.5 ml of a 1N aqueous sodium hydroxide solution, and the resulting solution was subjected to reaction at room temperature for 3 hours. After completion of the reaction, 20 ml of water and 20 ml of benzene were added to the reaction mixture and the aqueous layer was separated. The aqueous solution thus obtained was adjusted to a pH of 5.5 with acetic acid and the precipitated crystals were collected by filtration, to obtain 0.10 g of 6-(4-carboxyphenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 280° C. or more.

reactant | methyl 6-(4-diphenylmethyloxycarbonylphenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate | 0.25 g | C1(=CC=CC=C1)C(OC(=O)C1=CC=C(C=C1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C33H24FNO5
reactant | water | 20 ml | O | H2O
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | anisole | 2.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(4-carboxyphenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid | 0.10 g | C(=O)(O)C1=CC=C(C=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)F | C19H12FNO5
